US08372845B2
Step 1: 3-(2-tert-Butoxycarbonyl-ethylsulfamoyl)-benzoic acid methyl ester
To a stirred solution of methyl 3-(chlorosulfonyl)benzoate (5.0 g, 21.31 mmol) in pyridine (50 ml), was added dropwise a solution of tert-butyl 3-aminopropanoate hydrochloride (5.11 g, 23.44 mmol) in pyridine (10 ml) at 0° C. The resulting solution was allowed to warm to RT and stirred for 4 h. 1N HCl (50 ml) was added to the reaction mixture and the aqueous phase was separated and extracted with DCM (3×20 ml). The combined organic fractions were dried (MgSO4) and concentrated in vacuo to afford a viscous amber oil. Purification by chromatography on silica eluting with 0-100% EtOAc in iso-hexane afforded the title compound as a colourless oil. 1H NMR (400 MHz, CDCl3) δ 8.53 (1H, s), 8.27 (1H, d), 8.08 (1H, d), 7.63 (1H, t) 5.38 (1H, t), 3.97 (3H, s), 3.20 (2H, m), 2.48 (2H, t), 1.43 (9H, s).

reactant | methyl 3-(chlorosulfonyl)benzoate | 21.31 mmol, 5.0 g | ClS(=O)(=O)C=1C=C(C(=O)OC)C=CC1 | C8H7ClO4S
reactant | tert-butyl 3-aminopropanoate hydrochloride | 23.44 mmol, 5.11 g | Cl.NCCC(=O)OC(C)(C)C
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-tert-Butoxycarbonyl-ethylsulfamoyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)S(NCCC(=O)OC(C)(C)C)(=O)=O)=O | C15H21NO6S
